US04927926
A solution of 1.0 g (3.2 mmoles) of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 1.05 g (6.4 mmoles) of 3-acetamido-methylazetidine hydrochloride, 1.6 g (16 mmoles) of triethylamine and 20 ml of DMSO is heated to 80° C. for 4 hours. It is allowed to cool, poured onto a mixture of ice and water giving a precipitate which is filtered and washed with water. The solid is dried under vacuum yielding 0.93 g (69%) of ethyl 7-(3-acetamidomethyl-1-azetidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate melting at 170°-190° C.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.2 mmoles, 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | 3-acetamido-methylazetidine hydrochloride | 6.4 mmoles, 1.05 g | Cl.C(C)(=O)NC1CN(C1)C
reactant | triethylamine | 16 mmoles, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl 7-(3-acetamidomethyl-1-azetidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.93 g, 69% | C(C)(=O)NCC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C21H23F2N3O4
